US05696263
(S)-Methanesulfonyl-2-(diisopropyl phosphonomethyl)-3-butene
(S)-2-O-(Diisopropyl phosphonomethyl)-3-butene-1,2-diol (2.62 g, 9.84 mmol) was mixed with triethylamine (1.99 g, 19.68 mmol) and 4-dimethylaminopyridine (10 mg) in 30 mL of methylene chloride. To the solution, mesyl chloride (1.35 g, 11.81 mmol) was slowly added at 0° C. The mixture was stirred at 0° C. for 30 min, then at room temperature for additional 30 min. Saturated sodium bicarbonate (50 mL) and methylen chloride (50 mL) were added. The aqueous layer was extracted with methylene chloride (75 mL×2). The combined methylene chloride extracts were dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by flash chromatography (ethyl acetate:petroleum ether=1:1 to 1:0, then ethyl acetate:acetone=5:0 to 5:1) to provide 3.27 g (97% yield) of the title compound as an oil.

reactant | (S)-2-O-(Diisopropyl phosphonomethyl)-3-butene-1,2-diol | 9.84 mmol, 2.62 g | C(C)(C)C(O[C@H](CO)C=C)(P(=O)(O)O)C(C)C | C11H23O5P
reactant | triethylamine | 19.68 mmol, 1.99 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 11.81 mmol, 1.35 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | acetone | CC(=O)C | C3H6O
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylen chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-Methanesulfonyl-2-(diisopropyl phosphonomethyl)-3-butene | 3.27 g, 97% yield | CS(=O)(=O)C[C@@H](C=C)C(P(=O)(O)O)(C(C)C)C(C)C | C12H25O5PS
